US08431695B2
Step 1: Preparation of 1-[(benzyloxy)carbonyl]azetidine-3-carboxylic acid
To a solution of 1-(tert-butoxycarbonyl)azetidine-3-carboxylic acid (3.00 g, 14.9 mmol) in MeOH (12.5 mL) was added 4M HCl in 1,4-dioxane (12.5 mL). The reaction was stirred at rt for 16 h. The mixture was evaporated to dryness. To a cooled (0° C.) solution of the residue in 1,4-dioxane (15 mL) and 2N aqueous NaOH (75 mL) was added benzyl chloroformate (2.67 g, 15.7 mmol), dropwise. The reaction was warmed to rt and was allowed to stir for 4 h. The mixture was washed with ethyl acetate (75 mL) and the aqueous layer was acidified (pH 5) with the addition of conc HCl. The mixture was extracted with ethyl acetate (3×75 mL) and the combined organic layers were washed with brine, dried (Na2SO4) and evaporated to give 2.10 g (60%) of the desired product. ES-MS m/z 235.90 [M+H]+, HPLC RT (min) 2.53.

reactant | 1-(tert-butoxycarbonyl)azetidine-3-carboxylic acid | 14.9 mmol, 3.00 g | C(C)(C)(C)OC(=O)N1CC(C1)C(=O)O | C9H15NO4
reactant | HCl | 4M | Cl | ClH
reactant | NaOH | 2N, 75 mL | [OH-].[Na+]
reactant | benzyl chloroformate | 15.7 mmol, 2.67 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | MeOH | 12.5 mL | CO | CH4O
solvent | 1,4-dioxane | 12.5 mL | O1CCOCC1 | C4H8O2
product | 1-[(benzyloxy)carbonyl]azetidine-3-carboxylic acid | 2.10 g, 60% | C(C1=CC=CC=C1)OC(=O)N1CC(C1)C(=O)O | C12H13NO4
